US04021479
4-(4'-Chloro-4-biphenylyl)-butyric acid by method A
A solution of 12.3 gm (42.7 millimols) of 4-(4'-chloro-4-biphenylyl)-4-oxo-butyric acid in 150 ml of acetic acid was admixed with 4 ml of orthophosphoric acid of 89% and hydrogenated in the presence of 4 gm of palladium/barium sulfate (5%) at a hydrogen pressure of 5 atmospheres and at room temperature. The catalyst was vacuum-filtered off, and the solvent was evaporated. The residue was dissolved in ether, the organic phase was washed with water and evaporated to dryness. The free acid thus obtained was dissolved again in ethyl acetate, the solution was filtered and mixed with a small excess of cyclohexylamine. Yield: 9.5 gm (62.5% of theory); m.p. 187°-190° C. (cyclohexylamine salt). Melting point of the free acid: 136°-137° C.

reactant | 4-(4'-chloro-4-biphenylyl)-4-oxo-butyric acid | 42.7 millimols, 12.3 gm | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13ClO3
reactant | orthophosphoric acid | 4 ml | P(O)(O)(O)=O | H3O4P
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium/barium sulfate | 4 gm | [Pd] | Pd
product | 4-(4'-Chloro-4-biphenylyl)-butyric acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CCCC(=O)O | C16H15ClO2
